US08183380B2
Step A: [1-(2-Hydroxy-2-methyl-propyl)-piperidin-4-yl]-carbamic acid ethyl ester:
A mixture of commercially available ethyl piperidin-4-ylcarbamate (2.067 g, 12 mmol) and isobutylene oxide (868 mg, 12 mmol) in ethanol (15 mL) was irradiated in a microwave apparatus at 110° C. for 90 min. Purification by silica gel column chromatography with ethyl acetate gave the title compound as a colorless oil (2.838 g, 97%); MS: m/e=245.3 (M+H+).

reactant | ethyl piperidin-4-ylcarbamate | 12 mmol, 2.067 g | N1CCC(CC1)NC(OCC)=O | C8H16N2O2
reactant | isobutylene oxide | 12 mmol, 868 mg | CC1(C)CO1 | C4H8O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | [1-(2-Hydroxy-2-methyl-propyl)-piperidin-4-yl]-carbamic acid ethyl ester | 2.838 g, 97% | C(C)OC(NC1CCN(CC1)CC(C)(C)O)=O | C12H24N2O3
